US06352982B1
In methanol (15 ml) were dissolved 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol produced in Example 1-(2) (0.6 g) and 3-benzyloxybenzaldehyde (0.38 g). To the solution was added acetic acid (0.12 g). To the mixture was added dropwise, while stirring at room temperature, cyano sodium borohydride (0.13 g). The reaction mixture was stirred for one hour at 60° C., to which was then added water (50 ml), followed by extraction with ethyl acetate (80 ml). The organic layer was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography to give 2-(3-benzyloxybenzyl)-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (0.9 g) as a colorless oily product.

reactant | 3-benzyloxybenzaldehyde | 0.38 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | acetic acid | 0.12 g | C(C)(=O)O | C2H4O2
reactant | cyano sodium borohydride | 0.13 g | [BH4-].C(#N)[Na]
reactant | 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C19H23ClN2O3
solvent | methanol | 15 ml | CO | CH4O
product | 2-(3-benzyloxybenzyl)-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 0.9 g | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C(C3=CC(=CC=C3)CNC(=O)OC(C)(C)C)O)C=C(C=C2)Cl)C=CC1 | C33H34ClNO4
